US04695569
A mixture of 8 parts of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-[4-(methylamino)-3-pyridinyl]thiourea, 15 parts of mercury(II)oxide, 0.1 parts of sulfur and 120 parts of ethanol was stirred and refluxed for 3 hours. After the addition of another 15 parts of mercury(II)oxide, stirring at reflux was continued for 2 hours. The reaction mixture was filtered over Hyflo and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol saturated with ammonia (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 4.4 parts (59%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-1-methyl-1H-imidazo[4,5-c]pyridin-2-amine monohydrate; mp. 144.6° C. (compound 108).

reactant | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-[4-(methylamino)-3-pyridinyl]thiourea | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(=S)NC=2C=NC=CC2NC | C28H33FN8S
reactant | sulfur | [S] | S
reactant | ethanol | C(C)O | C2H6O
catalyst | mercury(II)oxide | [Hg]=O
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-1-methyl-1H-imidazo[4,5-c]pyridin-2-amine monohydrate | 59% | O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2N(C1=C(C=NC=C1)N2)C | InChI=1S/C28H31FN8.H2O/c1-35-25-10-13-30-18-24(25)34-27(35)31-14-17-36-15-11-22(12-16-36)32-28-33-23-4-2-3-5-26(23)37(28)19-20-6-8-21(29)9-7-20;/h2-10,13,18,22H,11-12,14-17,19H2,1H3,(H,31,34)(H,32,33);1H2
